US08710043B2
To a 250 mL round bottom flask containing 2-chloro-5-(methoxycarbonyl)pyridine 1-oxide (2.45 g, 13.06 mmol) was added MeCN (10 mL). The resulting mixture was stirred at 23° C. for 5 min. At this time, trifluoroacetic anhydride (20 mL) was added and the reaction was stirred 1 h. Solid NaHCO3 (25 g) was added to the flask followed by MeOH (100 mL). The solid was filtered away and the filtrate was concentrated and subjected to silica gel chromatography (80 g ISCO column, 0-5% MeOH in CHCl3) to give methyl 1-hydroxy-6-oxo-1,6-dihydropyridine-3-carboxylate as a yellow solid.

reactant | 2-chloro-5-(methoxycarbonyl)pyridine 1-oxide | 13.06 mmol, 2.45 g | ClC1=[N+](C=C(C=C1)C(=O)OC)[O-] | C7H6ClNO3
reactant | MeCN | 10 mL | CC#N | C2H3N
reactant | trifluoroacetic anhydride | 20 mL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | NaHCO3 | 25 g | C(=O)(O)[O-].[Na+]
solvent | MeOH | 100 mL | CO | CH4O
product | methyl 1-hydroxy-6-oxo-1,6-dihydropyridine-3-carboxylate | ON1C=C(C=CC1=O)C(=O)OC | C7H7NO4
